US07723349B2
To a solution of (10aR)-2,3,10,10a-tetrahydropyrazino[1,2-a]indole-1,4-dione (200 mg, 0.99 mmol) in 5 mL THF was added LAH. The reaction mixture was refluxed for 1 h. Standard work up afforded 170 mg of pure (10aR)-1,2,3,4,10,10a-hexahydropyrazino[1,2-a]indole.

reactant | (10aR)-2,3,10,10a-tetrahydropyrazino[1,2-a]indole-1,4-dione | 0.99 mmol, 200 mg | C1(NCC(N2[C@@H]1CC=1C=CC=CC21)=O)=O | C11H10N2O2
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (10aR)-1,2,3,4,10,10a-hexahydropyrazino[1,2-a]indole | 170 mg | C1NCCN2[C@@H]1CC=1C=CC=CC21 | C11H14N2
